US09238631B2
a) di-tert-butyl 4-[4-(benzyloxy)benzyl]-N-trityl-L-glutamate
Di-tert-butyl N-trityl-L-glutamate (1.63 g, 3.25 mmol) was dissolved in tetrahydrofuran (12 ml) and the solution was cooled to −78° C. To the solution was added lithium 1,1,1,3,3,3-hexamethyldisilazide (1M in tetrahydrofuran, 7.14 ml) and, after stirring at −78° C. for 20 min, benzyl 4-(bromomethyl)phenyl ether (1.08 g, 3.90 mmol) in tetrahydrofuran (8 ml) was slowly added. The cooling bath was removed and the reaction mixture was stirred for 2 h. Then, 50 ml of 2 M aqueous hydrogen chloride solution were added and the mixture was extracted with dichloromethane. The organic phase was dried and concentrated under reduced pressure; the residue was purified by silica gel column chromatography to yield 813 mg (30%) of the product.

reactant | Di-tert-butyl N-trityl-L-glutamate | 3.25 mmol, 1.63 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C32H39NO4
reactant | benzyl 4-(bromomethyl)phenyl ether | 3.90 mmol, 1.08 g | BrCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C14H13BrO
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | di-tert-butyl 4-[4-(benzyloxy)benzyl]-N-trityl-L-glutamate | 813 mg, 30% | C(C1=CC=CC=C1)OC1=CC=C(CC(C[C@H](NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C46H51NO5
